US04455422
2.5 Grams of 6-{1-hydroxy-4-[bis-chloroethyl-amino]butyl}-3,4-dihydrocarbostyril, 1.5 g of aniline and 2.2 g of potassium carbonate were mixed in 150 ml of ethanol and the mixture was refluxed by heating for 24 hours. The reaction mixture was concentrated under a reduced pressure and the residue thus obtained was extracted with chloroform. The chloroform layer was washed with water, dried and chloroform was removed by distillation. The residue thus obtained was separated and purified by a preparative thin layer chromatography and recrystallized from isopropanol to obtain 0.2 g of 6-[1-hydroxy-4-(4-phenyl-1-piperazinyl)butyl]-3,4-dihydrocarbostyril in colorless needle-like crystals.

reactant | 6-{1-hydroxy-4-[bis-chloroethyl-amino]butyl}-3,4-dihydrocarbostyril | OC(CCCN(CCCl)CCCl)C=1C=C2CCC(NC2=CC1)=O | C17H24Cl2N2O2
reactant | aniline | 1.5 g | NC1=CC=CC=C1 | C6H7N
reactant | potassium carbonate | 2.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 6-[1-hydroxy-4-(4-phenyl-1-piperazinyl)butyl]-3,4-dihydrocarbostyril | 0.2 g | OC(CCCN1CCN(CC1)C1=CC=CC=C1)C=1C=C2CCC(NC2=CC1)=O | C23H29N3O2
